US04432976
1.5 g of 21-acetoxy-11β-hydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione is dissolved in 510 ml of methanol and 111 ml of water and refluxed under agitation with 1.5 g of calcium carbonate for 24 hours. The calcium carbonate is removed by vacuum-filtering; the filtrate is concentrated to turbidity and poured on water. After the usual working-up process, the crude product is purified on 115 g of silica gel with a methylene chloride-acetone gradient (0-20% acetone), thus isolating 758 mg of 11β,21-dihydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione, mp 220°-223° C. (decomposition).

reactant | 21-acetoxy-11β-hydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione | 1.5 g | C(C)(=O)OCC([C@@]12[C@@H](C[C@H]3[C@@H]4CCC5=CC(C=C[C@]5(C)[C@H]4[C@H](C[C@]13C)O)=O)OCO2)=O | C24H30O7
reactant | water | 111 ml | O | H2O
reactant | calcium carbonate | 1.5 g | C([O-])([O-])=O.[Ca+2]
solvent | methanol | 510 ml | CO | CH4O
product | 11β,21-dihydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione | 758 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]3[C@](C(CO)=O)([C@]2(C1)C)OCO3)=O)C | C22H28O6
